**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Flexible Transformer for DC/DC Converter
* Matchcode:              WE-FLEX HV
* Library Type:           LTspice
* Version:                rev22b
* Created/modified by:    Toby    
* Date and Time:          2022-05-23
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
************ WE-FLEX-HV-ER11.5 ****************
.Subckt WE-FLEX-HV_ER11-5_749196108 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=11.9u 
+ Lm=14.7m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {631/100000000}
+ Rbase = 0.344*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.3u
+ Trn = 12
.ends WE-FLEX-HV_ER11-5_749196108

.Subckt WE-FLEX-HV_ER11-5_749196118 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp 
+ A=11.9u 
+ Lm=14.7m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {7630/100000000}
+ Rbase = 0.344*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.3u
+ Trn = 12
.ends WE-FLEX-HV_ER11-5_749196118

.Subckt WE-FLEX-HV_ER11-5_749196128 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp 
+ A=11.9u 
+ Lm=14.7m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {14645/100000000}
+ Rbase = 0.344*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.3u
+ Trn = 12
.ends WE-FLEX-HV_ER11-5_749196128

.Subckt WE-FLEX-HV_ER11-5_749196138 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=11.9u 
+ Lm=14.7m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {19970/100000000}
+ Rbase = 0.344*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.3u
+ Trn = 12
.ends WE-FLEX-HV_ER11-5_749196138

.Subckt WE-FLEX-HV_ER11-5_749196148 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp 
+ A=11.9u 
+ Lm=14.7m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {25925/100000000}
+ Rbase = 0.344*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.3u
+ Trn = 12
.ends WE-FLEX-HV_ER11-5_749196148

************ WE-FLEX-HV-ER14.5 ****************
.Subckt WE-FLEX-HV_ER14-5_749196208 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=17.6u 
+ Lm=19m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {1175/100000000}
+ Rbase = 0.2*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.17u
+ Trn = 10
.ends WE-FLEX-HV_ER14-5_749196208

.Subckt WE-FLEX-HV_ER14-5_749196218 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=17.6u 
+ Lm=19m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {9915/100000000}
+ Rbase = 0.2*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.17u
+ Trn = 10
.ends WE-FLEX-HV_ER14-5_749196218

.Subckt WE-FLEX-HV_ER14-5_749196228 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=17.6u 
+ Lm=19m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {18930/100000000}
+ Rbase = 0.2*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.17u
+ Trn = 10
.ends WE-FLEX-HV_ER14-5_749196228

.Subckt WE-FLEX-HV_ER14-5_749196238 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp 
+ A=17.6u 
+ Lm=19m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {26755/100000000}
+ Rbase = 0.2*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.17u
+ Trn = 10
.ends WE-FLEX-HV_ER14-5_749196238

.Subckt WE-FLEX-HV_ER14-5_749196248 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=17.6u 
+ Lm=19m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {33950/100000000}
+ Rbase = 0.2*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.17u
+ Trn = 10
.ends WE-FLEX-HV_ER14-5_749196248

************ WE-FLEX-HV-EFD15 ****************
.Subckt WE-FLEX-HV_EFD15_749196308 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=12.2u 
+ Lm=34m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {953/100000000}
+ Rbase = 0.145*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.13u
+ Trn = 13
.ends WE-FLEX-HV_EFD15_749196308

.Subckt WE-FLEX-HV_EFD15_749196318 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp 
+ A=12.2u 
+ Lm=34m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {10440/100000000}
+ Rbase = 0.145*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.13u
+ Trn = 13
.ends WE-FLEX-HV_EFD15_749196318

.Subckt WE-FLEX-HV_EFD15_749196328 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp 
+ A=12.2u 
+ Lm=34m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {17660/100000000}
+ Rbase = 0.145*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.13u
+ Trn = 13
.ends WE-FLEX-HV_EFD15_749196328

.Subckt WE-FLEX-HV_EFD15_749196338 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp 
+ A=12.2u 
+ Lm=34m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {27490/100000000}
+ Rbase = 0.145*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.13u
+ Trn = 13
.ends WE-FLEX-HV_EFD15_749196338

.Subckt WE-FLEX-HV_EFD15_749196348 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=12.2u 
+ Lm=34m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {32580/100000000}
+ Rbase = 0.145*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.13u
+ Trn = 13
.ends WE-FLEX-HV_EFD15_749196348



************ WE-FLEX-HV-EFD20 ****************
.Subckt WE-FLEX-HV_EFD20_749196507 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {1843/100000000}
+ Rbase = 0.036*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.18u
+ Trn = 8
.ends WE-FLEX-HV_EFD20_749196507

.Subckt WE-FLEX-HV_EFD20_749196508 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {1816/100000000}
+ Rbase = 0.102*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.24u
+ Trn = 12
.ends WE-FLEX-HV_EFD20_749196508

.Subckt WE-FLEX-HV_EFD20_749196517 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {24615/100000000}
+ Rbase = 0.036*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.18u
+ Trn = 8
.ends WE-FLEX-HV_EFD20_749196517

.Subckt WE-FLEX-HV_EFD20_749196518 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {24330/100000000}
+ Rbase = 0.102*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.24u
+ Trn = 12
.ends WE-FLEX-HV_EFD20_749196518

.Subckt WE-FLEX-HV_EFD20_749196527 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {47650/100000000}
+ Rbase = 0.036*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.18u
+ Trn = 8
.ends WE-FLEX-HV_EFD20_749196527

.Subckt WE-FLEX-HV_EFD20_749196528 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {46635/100000000}
+ Rbase = 0.102*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.24u
+ Trn = 12
.ends WE-FLEX-HV_EFD20_749196528

.Subckt WE-FLEX-HV_EFD20_749196537 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {59350/100000000}
+ Rbase = 0.036*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.18u
+ Trn = 8
.ends WE-FLEX-HV_EFD20_749196537

.Subckt WE-FLEX-HV_EFD20_749196538 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {58250/100000000}
+ Rbase = 0.102*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.24u
+ Trn = 12
.ends WE-FLEX-HV_EFD20_749196538

.Subckt WE-FLEX-HV_EFD20_749196547 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {76250/100000000}
+ Rbase = 0.036*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.18u
+ Trn = 8
.ends WE-FLEX-HV_EFD20_749196547

.Subckt WE-FLEX-HV_EFD20_749196548 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,8,100,9)
+ Bs= tbl(temp,25,500m,100,390m)
+ Br= tbl(temp,25,50m,100,55m)
+ Lg= {75190/100000000}
+ Rbase = 0.102*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.24u
+ Trn = 12
.ends WE-FLEX-HV_EFD20_749196548

********************************************

.Subckt ModelWinds S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params:
+ temp=temp
+ A=1
+ Lm=1 
+ Hc=1
+ Bs=1
+ Br=0.5
+ Lg=1
+ Rbase=1
+ Llkgbase=1
+ Trn=1
**
Lp N01 N02a Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn}
Rp N02a N02 0.00001
Rgc N01 0 20meg
**
Lk1 N13 S1 {Llkgbase}
Rp1 S1 F1 1meg
Rs1 F1 N12 {Rbase}
Cp1 S1 F1 10p
G11 0 N11 N01 N02 1
G12 0 N11 N13 N12 1
R1 N11 0 1Meg
G13 N12 N13 N11 0 1
G14 N02 N01 N11 0 1
Rg1 S1 0 20meg
**
Lk2 N23 S2 {Llkgbase}
Rp2 S2 F2 1meg
Rs2 F2 N22 {Rbase}
Cp2 S2 F2 10p
G21 0 N21 N01 N02 1
G22 0 N21 N23 N22 1
R2 N21 0 1Meg
G23 N22 N23 N21 0 1
G24 N02 N01 N21 0 1
Rg2 S2 0 20meg
**
Lk3 N33 S3 {Llkgbase}
Rp3 S3 F3 1meg
Rs3 F3 N32 {Rbase}
Cp3 S3 F3 10p
G31 0 N31 N01 N02 1
G32 0 N31 N33 N32 1
R3 N31 0 1Meg
G33 N32 N33 N31 0 1
G34 N02 N01 N31 0 1
Rg3 S3 0 20meg
**
Lk4 N43 S4 {Llkgbase}
Rp4 S4 F4 1meg
Rs4 F4 N42 {Rbase}
Cp4 S4 F4 10p
G41 0 N41 N01 N02 1
G42 0 N41 N43 N42 1
R4 N41 0 1Meg
G43 N42 N43 N41 0 1
G44 N02 N01 N41 0 1
Rg4 S4 0 20meg
**
Lk5 N53 S5 {Llkgbase}
Rp5 S5 F5 1meg
Rs5 F5 N52 {Rbase}
Cp5 S5 F5 10p
G51 0 N51 N01 N02 1
G52 0 N51 N53 N52 1
R5 N51 0 1Meg
G53 N52 N53 N51 0 1
G54 N02 N01 N51 0 1
Rg5 S5 0 20meg
**
Lk6 N63 S6 {Llkgbase}
Rp6 S6 F6 1meg
Rs6 F6 N62 {Rbase}
Cp6 S6 F6 10p
G61 0 N61 N01 N02 1
G62 0 N61 N63 N62 1
R6 N61 0 1Meg
G63 N62 N63 N61 0 1
G64 N02 N01 N61 0 1
Rg6 S6 0 20meg
**
.ends ModelWinds